US05426119
a ) 2-(2-(p-Chlorobenzenesulphonylamino)ethyl)thiophene
Prepared from 2-(2-aminoethyl)-thiophene and 4-chlorobenzenesulphonic acid chloride analogously to Example 1a.

reactant | 2-(2-aminoethyl)-thiophene | NCCC=1SC=CC1 | C6H9NS
reactant | 4-chlorobenzenesulphonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 2-(2-(p-Chlorobenzenesulphonylamino)ethyl)thiophene | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1SC=CC1 | C12H12ClNO2S2
